* C:\Users\Admin\Documents\winkler.asc
R1 X N009 1.03k
R2 Y N009 3.86k
R3 5v N009 100k
R5 N013 N009 1k
XU1 0 N009 0 5v N013 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 X N017 1.15k
R6 Y N017 2k
R7 5v N017 100k
R8 N019 N017 1k
XU2 0 N017 0 5v N019 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 X N001 1.41k
R10 Y N001 1.41k
R11 5v N001 100k
R12 N005 N001 1k
XU3 0 N001 0 5v N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 X N002 1.15k
R14 Y N002 2.00k
R15 5v N002 100k
R16 N006 N002 1k
XU4 0 N002 0 5v N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 N005 Vout DFLS160
V1 0 X 3
V2 0 Y 4
V3 0 5v 5
D1 N006 Vout DFLS160
D3 N013 Vout DFLS160
D4 N019 Vout DFLS160
R17 X N010 3.86k
R18 Y N010 1.03k
R19 5v N010 100k
R20 N014 N010 1k
XU5 0 N010 0 5v N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D5 N014 Vout DFLS160
R21 X2 N011 1.03k
R22 Y2 N011 3.86k
R23 5v2 N011 100k
R24 N015 N011 1k
XU6 0 N011 0 5v N015 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R25 X2 N018 1.15k
R26 Y2 N018 2k
R27 5v2 N018 100k
R28 N020 N018 1k
XU7 0 N018 0 5v N020 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R29 X2 N003 1.41k
R30 Y2 N003 1.41k
R31 5v2 N003 100k
R32 N007 N003 1k
XU8 0 N003 0 5v N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R33 X2 N004 1.15k
R34 Y2 N004 2.00k
R35 5v2 N004 100k
R36 N008 N004 1k
XU9 0 N004 0 5v N008 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D6 N007 Vout2 DFLS160
V5 0 Y2 2
V6 0 5v2 5
D7 N008 Vout2 DFLS160
D8 N015 Vout2 DFLS160
D9 N020 Vout2 DFLS160
R37 X2 N012 3.86k
R38 Y2 N012 1.03k
R39 5v2 N012 100k
R40 N016 N012 1k
XU10 0 N012 0 5v N016 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D10 N016 Vout2 DFLS160
XU11 0 N021 0 P001 X2 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R41 N021 X2 2000k
V4 0 P001 5
R42 Vout N021 2000k
.model D D
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2
* 45 degrees
* 15 degrees
* 30 degrees
* 60 degrees
* Rx should be (cos(theta) ^ -1)*Rf, since adding will  be (Rf/Rx)x+(Rf/Ry)y
* 75 degrees
* 45 degrees
* 15 degrees
* 30 degrees
* 60 degrees
* Rx should be (cos(theta) ^ -1)*Rf, since adding will  be (Rf/Rx)x+(Rf/Ry)y
* 75 degrees
.lib UniversalOpAmp1.lib
.backanno
.end
